US09290639B2
Sample 6(b)—FR Polymer Made Directly from HEMA
To the solution is added 19 g butylacrylate, 3 g itaconic acid and 1 g 30% sodium laurylsulfate solution. Polymerization is carried out as described before to obtain a stable latex with essentially no coagulum.

reactant | butylacrylate | 19 g | C(CCC)OC(C=C)=O | C7H12O2
reactant | itaconic acid | 3 g | C(C(=C)CC(=O)O)(=O)O | C5H6O4
reactant | sodium laurylsulfate | 1 g | C(CCCCCCCCCCC)OS(=O)(=O)[O-].[Na+]
product | HEMA | CC(=C)C(=O)OCCO | C6H10O3
